US06387919B1
N-{6-Hydroxy-3-[(4-methylsulfamoylmethyl-phenyl)-hydrazono]-2-oxo-2,3-dihydro-1H-indol-5-yl}-acetamide (Z isomer)
Condensation of N-(6-hydroxy-2,3-dioxo-2,3-dihydro-1H-indol4-yl)acetamide and 4-hydrazino-N-methyl-benzylsulfonamide hydrochloride according to Procedure G gave the title compound in 4% yield: 1H NMR (DMSO-d6): δ 2.04 (s, 3H), 2.51 (d, J=4.8 Hz, 3H), 4.24 (s, 2H), 6.45 (s, 1H), 6.84 (t, J=4.8 Hz 1H), 7.30 (s, 4H), 7.82 (s, 1H), 9.12 (s, 1H), 10.20 (s, 1H), 10.77 (s, 1H), 12.50 (s, 1H); APCI−MS m/z 416 (M−H)−.

reactant | N-(6-hydroxy-2,3-dioxo-2,3-dihydro-1H-indol4-yl)acetamide | OC1=CC(=C2C(C(NC2=C1)=O)=O)NC(C)=O | C10H8N2O4
reactant | 4-hydrazino-N-methyl-benzylsulfonamide hydrochloride | Cl.N(N)C1=CC=C(CS(=O)(=O)NC)C=C1
product | N-{6-Hydroxy-3-[(4-methylsulfamoylmethyl-phenyl)-hydrazono]-2-oxo-2,3-dihydro-1H-indol-5-yl}-acetamide | 4% yield | OC1=C(C=C2C(C(NC2=C1)=O)=NNC1=CC=C(C=C1)CS(NC)(=O)=O)NC(C)=O | C18H19N5O5S
